* A dual mosfet ngspice model
* file name: SSM6N7002CFU-dual.lib
.subckt SSM6N7002CFU-dual S1 G1 D2 S2 G2 D1
.include SSM6N7002CFU.lib
* INM INP VCC VEE OUT
XU1A D1 G1 S1 NMOS_SSM6N7002CFU
XU1B D2 G2 S2 NMOS_SSM6N7002CFU
.ends
