* A qual opamp ngspice model
* file name: lm324-quad.lib
.subckt lm324-quad 1OUT 1INM 1INP VCC 2INP 2INM 2OUT 3OUT 3INM 3INP VEE 4INP 4INM 4OUT
.include LMx24B_LM2902B.lib
* INM INP VCC VEE OUT
XU1A 1INM 1INP VCC VEE 1OUT LMx24B_LM2902B
XU1B 2INM 2INP VCC VEE 2OUT LMx24B_LM2902B
XU1C 3INM 3INP VCC VEE 3OUT LMx24B_LM2902B
XU1D 4INM 4INP VCC VEE 4OUT LMx24B_LM2902B
.ends
