* source LMX24B_LM2902B
X_U1         N00333 N00435 VCC VEE N00333 LMX24B_LM2902B
V_V1         VCC 0 18
V_V2         0 VEE 18
V_V3         N00435 0  
+SIN 0 10 1k 0 0 0
